US04932997
A mixture of 1.1 g (3.8 mmol) of 2-phenylbenzo[b]thiophen-3-ylsulfonylamide, 1.0 g (3.8 mmol) of N-(4-methoxy-6-methylpyrimidin-2-yl)phenylcarbamate, 0.6 g (4 mmol) of 1.8-diazabicyclo[5.4.0]undec-7-ene and 15 ml of dioxane is stirred for 4 hours at 20°-25° C. The reaction mixture is then taken up in 100 ml of water, acidified to pH 3 by adding 2N hydrochloric acid dropwise and then extracted with 3×30 ml of ethyl acetate. The combined extracts are dried and concentrated by evaporation. The residue is crystallised from ether, affording 1.35 g (78% of theory) of N-(2-phenylbenzo[b]thiophen-3-ylsulfonyl)-N'-(4-methoxy-6-methylprimidin-2-yl)urea with a melting point of 199°-202° C.

reactant | 2-phenylbenzo[b]thiophen-3-ylsulfonylamide | 3.8 mmol, 1.1 g | C1(=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)[NH-]
reactant | N-(4-methoxy-6-methylpyrimidin-2-yl)phenylcarbamate | 3.8 mmol, 1.0 g | COC1=NC(=NC(=C1)C)N(C([O-])=O)C1=CC=CC=C1
reactant | 1.8-diazabicyclo[5.4.0]undec-7-ene | 4 mmol, 0.6 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-(2-phenylbenzo[b]thiophen-3-ylsulfonyl)-N'-(4-methoxy-6-methylprimidin-2-yl)urea | 1.35 g, 78% | C1(=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)NC(=O)NC2=NC(=CC(=N2)OC)C | C21H18N4O4S2
